### PR TITLE
feat(ClassicalMechanics): initial conditions from two positions

### PR DESCRIPTION
**Pull request by nateabr**
Resolves the "two positions at different times" item of the initial-conditions TODO in `HarmonicOscillator/Solution.lean` (the two-velocity item is left for a follow-up).

Adds:
- `InitialConditionsFromTwoPositions` (raw two-position data, S-independent)
- a total `toInitialConditions` conversion
- correctness lemmas `..._trajectory_at_t₁` / `_at_t₂`, under the nondegeneracy hypothesis `sin (S.ω * (t₂ - t₁)) ≠ 0`

Also completes the table of contents (previously missing A.2.1 / A.2.1.1 / D.1 entries) and corrects an incorrect section number A.2.1.2 → A.2.1.1. A one-word docstring typo fix is included as a separate commit.

Question for reviewers: correctness is stated under the nondegeneracy condition `sin (S.ω * (t₂ - t₁)) ≠ 0`. In the degenerate case the two measurements are dependent and do not determine the initial conditions (the classical result `x(t₂) = (-1)ⁿ · x(t₁)`). Does this need to be formalized as a lemma, or is the conditional statement sufficient?

Developed with AI assistance; all mathematical content and proofs were derived and verified by me.

### CODE REVIEW

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 1]
```diff
@@ -656,6 +717,54 @@ lemma toInitialConditions_energy_at_t₀ (S : HarmonicOscillator)
...
+    (IC : InitialConditionsFromTwoPositions)
+    (hΔ : sin (S.ω * (IC.t₂ - IC.t₁)) ≠ 0) :
+    (IC.toInitialConditions S).trajectory S IC.t₁ = IC.x_t₁ := by
+  rw [InitialConditions.trajectory_eq, toInitialConditions]
+  ext i
+  simp only [PiLp.add_apply, PiLp.smul_apply, PiLp.sub_apply, smul_eq_mul]
+  field_simp [S.ω_ne_zero]
+  rw [show S.ω * (IC.t₂.val - IC.t₁.val) = S.ω * IC.t₂.val - S.ω * IC.t₁.val from by ring,
+    Real.sin_sub]
+  ring
```
Comment (gloges) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
  grind [mul_sub, Real.sin_sub]
```

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 2]
```diff
@@ -656,6 +717,54 @@ lemma toInitialConditions_energy_at_t₀ (S : HarmonicOscillator)
...
+    (IC : InitialConditionsFromTwoPositions)
+    (hΔ : sin (S.ω * (IC.t₂ - IC.t₁)) ≠ 0) :
+    (IC.toInitialConditions S).trajectory S IC.t₂ = IC.x_t₂ := by
+  rw [InitialConditions.trajectory_eq, toInitialConditions]
+  ext i
+  simp only [PiLp.add_apply, PiLp.smul_apply, PiLp.sub_apply, smul_eq_mul]
+  field_simp [S.ω_ne_zero]
+  rw [show S.ω * (IC.t₂.val - IC.t₁.val) = S.ω * IC.t₂.val - S.ω * IC.t₁.val from by ring,
+    Real.sin_sub]
+  ring
```
Comment (gloges) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
  grind [mul_sub, Real.sin_sub]
```

**Review by gloges — COMMENTED** [review]
A minor suggestion to clean up the `rw - show - ring` lines.
Regarding the degenerate case, I think as you've written things is good. The two-position initial conditions can be stated for any `t₁`, `x_t₁`, `t₂`, `x_t₂` but results about it only used if these data are nondegenerate. If they _are_ degenerate then one should be using different initial conditions anyways!

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 3]
```diff
@@ -656,6 +717,54 @@ lemma toInitialConditions_energy_at_t₀ (S : HarmonicOscillator)
...
+
+/-- The trajectory from `toInitialConditions` passes through `x_t₂` at time `t₂`,
+  provided `sin (S.ω * (t₂ - t₁)) ≠ 0`. -/
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
```

Would remove these spaces between doc-strings and lemmas.

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 4]
```diff
@@ -656,6 +717,54 @@ lemma toInitialConditions_energy_at_t₀ (S : HarmonicOscillator)
...
+Under this nondegeneracy condition, we prove that the resulting trajectory passes through `x_t₁`
+at `t₁` and `x_t₂` at `t₂`.
+
+-/
+
+namespace InitialConditionsFromTwoPositions
+
+/-- The trajectory from `toInitialConditions` passes through `x_t₁` at time `t₁`,
+  provided `sin (S.ω * (t₂ - t₁)) ≠ 0`. -/
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]:
```suggestion
```

**Comment by nateabr** [comment]
Thanks, I applied the suggestions. Also, thank you for pointing out `grind`; I hadn’t encountered it before, and it already seems like it will be very helpful.

-awaiting-author

File: Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean [hunk 5]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2025 Joseph Tooby-Smith. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joseph Tooby-Smith, Lode Vermeulen
+Authors: Joseph Tooby-Smith, Lode Vermeulen, Nathaneal Sajan
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/HarmonicOscillator/Solution.lean]: Names should be alphabetical based on last name (so you first).

**Review by jstoobysmith — COMMENTED** [review]
One last comment - otherwise this looks good to me!

**Comment by nateabr** [comment]
The change has been made, thanks! Glad the PR looks good. Once it's merged I'll
work through the rest of the harmonic-oscillator TODOs. 

-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Great! Sounds good! I've approved, and will merge when the linters finish.

**Comment by jstoobysmith** [comment]
Congrats on your first PR :).

**Comment by nateabr** [comment]
Thank you, I really appreciate it! I was only able to pull it off because of how well-written the existing files are (and your YouTube videos that got me started in the first place). Hoping to merge many more.
